US06664412B2
Acrylonitrile (6.0 g, 113 mmol), 2-nitropropane (12.0 g, 135 mmol) and hexadecyltrimethyl ammonium chloride (2.0 g) were stirred in a 0.1N aqueous sodium hydroxide solution (200 ml) overnight at room temperature. The layers were separated and the aqueous layer was extracted twice with methylene chloride (50 ml). The combined organic layer was washed with saturated brine (30 ml). The solvent was evaporated and the residue was dried to give oily 4-methyl-4-nitrovaleronitrile (10.4 g, 73 mmol, yield 64.6%).

reactant | Acrylonitrile | 113 mmol, 6.0 g | C(C=C)#N | C3H3N
reactant | 2-nitropropane | 135 mmol, 12.0 g | [N+](=O)([O-])C(C)C | C3H7NO2
catalyst | hexadecyltrimethyl ammonium chloride | 2.0 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | sodium hydroxide | 0.1N, 200 ml | [OH-].[Na+]
product | 4-methyl-4-nitrovaleronitrile | 73 mmol, 10.4 g, yield 64.6% | CC(CCC#N)(C)[N+](=O)[O-] | C6H10N2O2
